US09108984B2
Step I: 4-Chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluoro-N-methoxy-N-methylbiphenyl-2-carboxamide
A solution of 4-chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluorobiphenyl-2-carboxylic acid (2.7 g, 7.1 mmol) in N,N-dimethylformamide (14 mL) was treated with N,N-diisopropylethylamine (4.3 mL, 25 mmol) followed by O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (3.5 g, 9.3 mmol) and stirred at 20° C. for 5 minutes. The reaction mixture was treated with N,O-dimethylhydroxylamine hydrochloride (0.9 g, 9.3 mmol) and stirred at 20° C. for 1 hour. The reaction mixture was poured into 0.5 M hydrogen chloride in water (100 mL) and extracted with ethyl acetate (150 mL). The organic layer was washed with saturated sodium bicarbonate (50 mL), brine (25 mL), dried with sodium sulfate, filtered, and concentrated to a crude residue. Purification by flash column chromatography using ethyl acetate in hexanes (0% - 40%) gave the desired product (2.7 g, 92% for 2 steps). LCMS for C21H23ClFN4O2 (M+H)+: m/z=417.1; Found: 417.0.

reactant | 4-chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluorobiphenyl-2-carboxylic acid | 7.1 mmol, 2.7 g | ClC=1C=C(C(=C(C1C#C)\N=N\N(CC)CC)C1=CC(=CC=C1)F)C(=O)O | C19H17ClFN3O2
reactant | N,N-diisopropylethylamine | 25 mmol, 4.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 9.3 mmol, 3.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,O-dimethylhydroxylamine hydrochloride | 9.3 mmol, 0.9 g | Cl.CNOC
reactant | hydrogen chloride | 0.5 M | Cl | ClH
solvent | N,N-dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-Chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-5-ethynyl-3′-fluoro-N-methoxy-N-methylbiphenyl-2-carboxamide | 2.7 g, 92% | ClC=1C=C(C(=C(C1C#C)\N=N\N(CC)CC)C1=CC(=CC=C1)F)C(=O)N(C)OC | C21H22ClFN4O2
